US08222263B2
To a suspension of magnesium (1.8 g, 74 mmol) in dry THF (50 mL) in a flame-dried round bottomed flask under nitrogen was added 4-chloro-1-methylpiperidine (9.0 g, 68 mmol). A crystal of iodine and a catalytic amount of cyclohexylmagnesium chloride was added and the mixture was heated to reflux for 2 h. A gray precipitate formed, which was removed via vacuum filtration under a nitrogen atmosphere. To the filtrate was added a solution of 2-aminobenzonitrile (1.6 g, 14 mmol) in dry THF (15 mL). The stirred mixture was heated to 45° C. for 2 h. Ice was added and the reaction was quenched with 1 M sulfuric acid. The mixture was extracted with ethyl acetate and the acidic aqueous layer was then neutralized with 1 N sodium hydroxide, concentrated on a rotary evaporator and extracted with ethyl acetate. The combined organics were dried over sodium sulfate, filtered and concentrated to afford (2-aminophenyl)(1-methylpiperidin-4-yl)methanone as a yellow oil (1.0 g, 7%).

reactant | magnesium | 74 mmol, 1.8 g | [Mg] | Mg
reactant | 4-chloro-1-methylpiperidine | 68 mmol, 9.0 g | ClC1CCN(CC1)C | C6H12ClN
reactant | iodine | II | I2
reactant | cyclohexylmagnesium chloride | C1(CCCCC1)[Mg]Cl
reactant | 2-aminobenzonitrile | 14 mmol, 1.6 g | NC1=C(C#N)C=CC=C1 | C7H6N2
reactant | THF | 50 mL | C1CCOC1 | C4H8O
reactant | THF | 15 mL | C1CCOC1 | C4H8O
product | (2-aminophenyl)(1-methylpiperidin-4-yl)methanone | 1.0 g, 7% | NC1=C(C=CC=C1)C(=O)C1CCN(CC1)C | C13H18N2O
